US09079853B2
1-isobutyl-2-oxo-3-(3,4,5-trimethoxybenzyl)indolin-3-yl benzoate
This compound was made in an analogous fashion to 1-ethyl-5-methyl-2-oxo-3-(3,4,5-trimethoxybenzyl)indolin-3-yl benzoate using 1-isobutyl-2-oxoindolin-3-yl benzoate. 1H-NMR δ 8.05 (d, 2H), 7.57 (dd, 1H), 7.43 (dd, 2H), 7.27 (m, 1H), 7.17 (d, 1H), 7.01 (dd, 1H), 6.73 (d, 1H), 6.17 (2H), 3.78 (s, 3H), 3.66 (s, 6H), 3.51 (m, 2H), 3.25 (m, 2H), 1.97 (m, 1H), 0.82 (dd, 6H). Calculated mass for C29H31NO6, 489.22. Observed 512.3 (M+Na).

reactant | 1-ethyl-5-methyl-2-oxo-3-(3,4,5-trimethoxybenzyl)indolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1(C(N(C2=CC=C(C=C12)C)CC)=O)CC1=CC(=C(C(=C1)OC)OC)OC | C28H29NO6
reactant | 1-isobutyl-2-oxoindolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1C(N(C2=CC=CC=C12)CC(C)C)=O | C19H19NO3
product | 1-isobutyl-2-oxo-3-(3,4,5-trimethoxybenzyl)indolin-3-yl benzoate | C(C1=CC=CC=C1)(=O)OC1(C(N(C2=CC=CC=C12)CC(C)C)=O)CC1=CC(=C(C(=C1)OC)OC)OC | C29H31NO6
